US08802670B2
2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine was reacted with 3-formyl phenyl boronic acid in General Procedure A. Purification on silica yielded 3-[6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-benzaldehyde. This was then treated with methylmagnesium bromide in THF to give the desired compound.

reactant | 2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2 | C16H22ClN5OS
reactant | 3-formyl phenyl boronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
product | 3-[6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-benzaldehyde | CN1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C=1C=C(C=O)C=CC1 | C23H27N5O2S
